US07173135B2
Bis(Triphenyl-phosphine)palladium(II) chloride (472 mg), copper iodide (192 mg) and diisopropylamine (680 mg) were added to a stirred solution of 6-chloro-4-iodo-2,3-methylenedioxyaniline (1000 mg) and methyl propargyl ether (471 mg) in ethyl acetate (10 mls) at −20° C. The reaction was allowed to warm to ambient temperature over 16 hours. The reaction mixture was partitioned between ethyl acetate and saturated NaHCO3. The organics were washed with water and saturated brine and dried over magnesium sulfate. The product was purified by column chromatography on silica using a gradient of 80–100% Dichloromethane/isohexane as eluent. 6-chloro-4-(3-methoxyprop-1-ynyl)-2,3-methylendioxyaniline was thus obtained as a tan crystalline solid (200 mg); NMR Spectrum: (DMSOd6) 3.28 (s, 3H), 4.26 (s, 2H), 5.52 (s, 2H), 6.05 (s, 2H), 6.93 (s, 1H).

reactant | diisopropylamine | 680 mg | C(C)(C)NC(C)C | C6H15N
reactant | 6-chloro-4-iodo-2,3-methylenedioxyaniline | 1000 mg | ClC1=CC(=C2C(=C1N)OCO2)I | C7H5ClINO2
reactant | methyl propargyl ether | 471 mg | C(C#C)OC | C4H6O
solvent | ethyl acetate | 10 mls | C(C)(=O)OCC | C4H8O2
catalyst | Bis(Triphenyl-phosphine)palladium(II) chloride | 472 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 192 mg | [Cu](I)I
product | 6-chloro-4-(3-methoxyprop-1-ynyl)-2,3-methylendioxyaniline | ClC1=CC(=C2C(=C1N)OCO2)C#CCOC | C11H10ClNO3
